US06472412B1
Sodium thiomethoxide (9.1 g) in dry methanol (50 mL) is added dropwise to a stirred solution of methyl 6-chloro-5-nitronicotinoate (25.1 g) in dry methanol (400 mL) and the mixture stirred for 4 hours. The pasty mixture is evaporated to low volume, diluted with water and the product extracted into ethyl acetate. The extacts are washed with water and brine, and finally dried (MgSO4). Evaporation gave methyl 6-methylthio-5-nitronicotinoate (16.8 g) as a yellow solid. The solid can be recrystallised from cyclohexane to give a yellow solid m.p. 115-6° C.

reactant | Sodium thiomethoxide | 9.1 g | C[S-].[Na+]
reactant | methyl 6-chloro-5-nitronicotinoate | 25.1 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 400 mL | CO | CH4O
product | methyl 6-methylthio-5-nitronicotinoate | 16.8 g | CSC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C8H8N2O4S
